US07253286B2
N-(3-Methylsulfonylphenyl)-N′-(4-(6-phenylaminopyrimidin-4-yloxy)phenyl)urea
N-(6-(4-Aminophenoxy)pyrimidin-4-yl)phenylamine (55.6 mg, 0.200 mmol) and (3-methylsulfonylphenyl)carbamic acid phenyl ester (63.8 mg, 0.220 mmol) were heated and stirred in dimethylsulfoxide (1 ml) at 85° C. for 2 hours. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with 1N aqueous sodium hydroxide, water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was suspended in ethyl acetate, the suspension was diluted with hexane, and the crystals were filtered out, washed with hexane and then blow-dried to obtain the title compound (77.0 mg, 0.162 mmol, 81%) as colorless crystals.

reactant | N-(6-(4-Aminophenoxy)pyrimidin-4-yl)phenylamine | 0.200 mmol, 55.6 mg | NC1=CC=C(OC2=CC(=NC=N2)NC2=CC=CC=C2)C=C1 | C16H14N4O
reactant | (3-methylsulfonylphenyl)carbamic acid phenyl ester | 0.220 mmol, 63.8 mg | C1(=CC=CC=C1)OC(NC1=CC(=CC=C1)S(=O)(=O)C)=O | C14H13NO4S
reactant | water | O | H2O
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | N-(3-Methylsulfonylphenyl)-N′-(4-(6-phenylaminopyrimidin-4-yloxy)phenyl)urea | 0.162 mmol, 77.0 mg, 81% | CS(=O)(=O)C=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)OC1=NC=NC(=C1)NC1=CC=CC=C1 | C24H21N5O4S
